US06307094B1
Ethyl 4,4,4-trifluoroacetoacetate (50 g), under a blanket of nitrogen gas, is heated to 40° C. and treated with platinum (0.1 g of 5% Pt/C, 0.01% load) and methanesulfonic acid (1.5 g, 2.9% load). Hydrogen is charged to a pressure of 5 bars, and the mixture agitated at 40° C. for 6h. After filtration to remove the catalyst, 25.3 g (50% yield) of ethyl 4,4,4-trifluoro-3-hydroxybutyrate is obtained.

reactant | Ethyl 4,4,4-trifluoroacetoacetate | 50 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | methanesulfonic acid | 1.5 g | CS(=O)(=O)O | CH4O3S
reactant | Hydrogen | [H][H] | H2
catalyst | platinum | 0.1 g | [Pt] | Pt
product | ethyl 4,4,4-trifluoro-3-hydroxybutyrate | 25.3 g, 50% yield | FC(C(CC(=O)OCC)O)(F)F | C6H9F3O3
